US06653308B2
5-[(Z)-(5-chloro-2-oxo-1,2-dihydro-3H-indol-3-ylidene)methyl]-N-[2-hydroxy-3-(2H-tetraazol-2-yl)propyl]-2,4-dimethyl-1H-pyrrole-3-carboxamide (Compound 23)(general procedure)
72 mg of 3-(2-H-tetrazol-2-yl)]-2-hydroxy-1-aminopropane was added to the slurry of 109 mg (0.25 mmol) of 5-[(Z)-(5-chloro-2-oxo-1,2-dihydro-3H-indol-3-ylidene)methyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid 1-oxy-7-azabenztriazole ester [prepared by activating (3Z)-3-([3,3-dimethyl-4-carboxy-1-H-pyrrol-2-yl)methylene)-5-chloro-1,3-dihydro-2H-indol-2-one (1.520 g; 4.8 mmol) with the HATU reagent (1.768 g; 4.65 mmol) in the presence of Hunig base (9.0 mmol; 1.58 ml) in DMF (20 ml) and isolated in pure form by precipitation with chloroform (20 ml) and drying on high vacuum in 94% yield (1.907 g)] in anhydrous dimethylacetamide (1.5 ml). The mixture was stirred for 30 min and evaporated on highvac. The residue was suspended in a mixture methanol-diethylamine 20:1 (3 ml), allowed to crystallize in the refrigerator (5° C.) for 1 hr, filtered, the precipitate was washed with ice-cold methanol and dried on highvac. Y=109 mg of an orange crystalline solid.

reactant | 2-hydroxy-1-aminopropane | OC(CN)C | C3H9NO
reactant | (3Z)-3-([3,3-dimethyl-4-carboxy-1-H-pyrrol-2-yl)methylene)-5-chloro-1,3-dihydro-2H-indol-2-one | 4.8 mmol, 1.520 g | CC1(C(NC=C1C(=O)O)\C=C\1/C(NC2=CC=C(C=C12)Cl)=O)C | C16H15ClN2O3
reactant | HATU | 4.65 mmol, 1.768 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Hunig base | 9.0 mmol, 1.58 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-[(Z)-(5-chloro-2-oxo-1,2-dihydro-3H-indol-3-ylidene)methyl]-N-[2-hydroxy-3-(2H-tetraazol-2-yl)propyl]-2,4-dimethyl-1H-pyrrole-3-carboxamide | 94% yield | ClC=1C=C2/C(/C(NC2=CC1)=O)=C/C1=C(C(=C(N1)C)C(=O)NCC(CN1N=CN=N1)O)C | C20H20ClN7O3
